US08030497B2
[4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(2-methoxy-phenyl)-methanol
The title compound is prepared from 4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde and 2-methoxyphenyl-magnesium bromide as described in example 35.

reactant | 4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde | IC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C=O | C21H23IN2O3
reactant | 2-methoxyphenyl-magnesium bromide | COC1=C(C=CC=C1)[Mg]Br
product | [4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-(2-methoxy-phenyl)-methanol | IC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C(O)C2=C(C=CC=C2)OC | C28H31IN2O4
